US09085534B2
3-[(4-bromobenzyl)amino]pyridine-4-carboxylic acid
The title compound was prepared in 39% yield from 4-bromobenzylamine and 3-fluoroisonicotinic acid according to the procedure for the preparation of Example 3. 1H NMR (400 MHz, DMSO-d6): δ 13.55 (br s, 1H), 8.08 (s, 1H), 7.82 (d, 1H, J=5.0 Hz), 7.52-7.58 (m, 3H), 7.32 (d, 2H, J=8.3 Hz), 4.55 (s, 2H). [M+H] calc'd for C13H11BrN2O2, 307, 309; found 307, 309.

reactant | 4-bromobenzylamine | BrC1=CC=C(CN)C=C1 | C7H8BrN
reactant | 3-fluoroisonicotinic acid | FC1=C(C(=O)O)C=CN=C1 | C6H4FNO2
product | 3-[(4-bromobenzyl)amino]pyridine-4-carboxylic acid | 39% yield | BrC1=CC=C(CNC=2C=NC=CC2C(=O)O)C=C1 | C13H11BrN2O2
